US04367238
Thus obtained 7-(o-tolylthio)-2,3-dihydrobenzofuran-2-one was hydrolyzed by treating with potassium hydroxide-methanol to give 2-[2-hydroxy-3-(o-tolylthio)phenyl]acetic acid, mp. 96°-97° C.

reactant | 7-(o-tolylthio)-2,3-dihydrobenzofuran-2-one | C1(=C(C=CC=C1)SC1=CC=CC=2CC(OC21)=O)C | C15H12O2S
reactant | potassium hydroxide methanol | [OH-].[K+].CO
product | 2-[2-hydroxy-3-(o-tolylthio)phenyl]acetic acid | OC1=C(C=CC=C1SC1=C(C=CC=C1)C)CC(=O)O | C15H14O3S
